US08470738B2
Ethyl 2-[2-(4-chloro-2,6-diethylphenylacetyl)-2-methylhydrazono]propanoate (compound VI-2)
To a solution of 1.1 g of ethyl 2-(methylhydrazono)propanoate in 20 mL of acetonitrile was added 0.68 g of potassium carbonate. The mixture was stirred under ice cooling. To the mixture was added dropwise a solution of 1.26 g of 4-chloro-2,6-diethylphenylacetyl chloride in 8 mL of acetonitrile over about 10 minutes. The mixture was further stirred at room temperature for 3 hours. Then, the reaction mixture was concentrated under reduced pressure. To the residue was added 20 mL of ice water, followed by extraction with ethyl acetate (20 mL, 10 mL×2). The extracts were combined, washed with an aqueous saturated sodium chloride solution (20 mL×2), dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to basic alumina column chromatography (ethyl acetate:hexane=1:6) to give 1.2 g of a light yellow solid. The solid was washed with cold hexane and air dried to give 0.79 g of the title compound as a white powder.

reactant | ethyl 2-(methylhydrazono)propanoate | 1.1 g | CNN=C(C(=O)OCC)C | C6H12N2O2
reactant | potassium carbonate | 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2,6-diethylphenylacetyl chloride | 1.26 g | ClC1=CC(=C(C(=C1)CC)CC(=O)Cl)CC | C12H14Cl2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
product | Ethyl 2-[2-(4-chloro-2,6-diethylphenylacetyl)-2-methylhydrazono]propanoate | 1.2 g | ClC1=CC(=C(C(=C1)CC)CC(=O)N(N=C(C(=O)OCC)C)C)CC | C18H25ClN2O3
